US08314100B2
1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine (Compound 101)
Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate and 1-(2-cyanophenyl)piperazine were reacted by the same way with the example 85 to obtain the titled compound (yield, 88%). 1H NMR (200 MHz, CDCl3): δ 3.31 (s, 4H), 3.84 (s, 4H), 4.15 (s, 3H), 7.03-7.10 (m, 2H), 7.25-7.61 (m, 5H), 7.82 (dd, J=8.7 and 5.7 Hz, 1H).

reactant | Ethyl N-(6-fluoro-3-methoxyquinoxalin-2-yl)carbamate | FC=1C=C2N=C(C(=NC2=CC1)NC(OCC)=O)OC | C12H12FN3O3
reactant | 1-(2-cyanophenyl)piperazine | C(#N)C1=C(C=CC=C1)N1CCNCC1 | C11H13N3
product | 1-[(6-Fluoro-3-methoxyquinoxalin-2-yl)aminocarbonyl]-4-(2-cyanophenyl)piperazine | 88% | FC=1C=C2N=C(C(=NC2=CC1)NC(=O)N1CCN(CC1)C1=C(C=CC=C1)C#N)OC | C21H19FN6O2
